US05403852
4 g of 6-[4-(4-chlorophenyl)-5-(4-methoxyphenyl)-2-oxazolyl]hexanenitrile, twice 2 g of sodium azide and twice 1.7 g of ammonium chloride in 50 cm3 of dimethylformamide are heated according to Example 5. The product of the reaction is purified by chromatography on a column 2 cm in diameter containing 40 g of silica gel (50 to 200μ). The column is eluted, collecting 25 cm3 fractions, first with 0.2 liter of diisopropyl ether and then with 0.3 liter of ethyl acetate. The ethyl acetate eluates are concentrated to dryness and the solid residue is crystallised in 40 cm3 of ethanol. 2 g (45%) of 5-{5-[4-(4-chlorophenyl)-5-(4-methoxyphenyl)-2-oxazolyl]pentyl}tetrazole, white crystals, melting point 160° C., are obtained.

reactant | 6-[4-(4-chlorophenyl)-5-(4-methoxyphenyl)-2-oxazolyl]hexanenitrile | 4 g | ClC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)OC)CCCCCC#N | C22H21ClN2O2
reactant | sodium azide | 2 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.7 g | [Cl-].[NH4+]
solvent | dimethylformamide | 50 cm3 | CN(C=O)C | C3H7NO
product | 5-{5-[4-(4-chlorophenyl)-5-(4-methoxyphenyl)-2-oxazolyl]pentyl}tetrazole | 2 g, 45% | ClC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)OC)CCCCCC1=NN=NN1 | C22H22ClN5O2
